US09120785B2
To a solution of 2-bromo-6-(1,3-thiazol-5-yl)pyridine (457 mg, 1.895 mmol) in tetrahydrofuran (20 mL) at −78° C. was added lithium diisopropyl amide (1.8 M in tetrahydrofuran/heptane/ethylbenzene, 1.106 mmol, 1.990 mmol) over three minutes. After 30 minutes, a solution of butyl trans-4-acetylcyclohexanecarboxylate (450 mg, 1.990 mmol) in tetrahydrofuran (3 mL) was added to the reaction mixture. After an additional 70 minutes, a saturated aqueous ammonium chloride solution (10 mL) was added. Then, the reaction mixture was allowed to warm to room temperature before being diluted with ethyl acetate (50 mL), water (2 mL), and saturated aqueous ammonium chloride solution (10 mL). The layers were separated and the organic layer was sequentially washed with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (0-20% ethyl acetate/dichloromethane) to give butyl trans-4-{1-[5-(6-bromopyridin-2-yl)-1,3-thiazol-2-yl]-1-hydroxyethyl}cyclohexanecarboxylate. MS ESI calc'd. for C21H27BrN2O3S [M+H]+ 467 and 469. found 467 and 469. Two enantiomers were separated by chiral super critical fluid chromatography (Chiral Technology IC-H, 2.1×25 cm, 5 uM, 70/30 ethanol/CO2, Flow Rate: 70 mL/min, 6 min run time, WL: 220 nm) Elution was observed at 3.98 min and 4.76 min. Pooled fractions of each peak were concentrated under reduced pressure.

reactant | 2-bromo-6-(1,3-thiazol-5-yl)pyridine | 1.895 mmol, 457 mg | BrC1=NC(=CC=C1)C1=CN=CS1 | C8H5BrN2S
reactant | lithium diisopropyl amide | 1.106 mmol, 1.8 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyl trans-4-acetylcyclohexanecarboxylate | 1.990 mmol, 450 mg | C(C)(=O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C13H22O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
product | butyl trans-4-{1-[5-(6-bromopyridin-2-yl)-1,3-thiazol-2-yl]-1-hydroxyethyl}cyclohexanecarboxylate | BrC1=CC=CC(=N1)C1=CN=C(S1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C21H27BrN2O3S
